US05283363
155 g (0.8 mol) of 3,4-difluoro-bromobenzene and 75 g (0.9 mol) of 3-amino-3, 3-dimethyl-1-propine are introduced into 900 ml of triethylamine. After 2.81 g (0.004 mol) of palladium(II)-bis(triphenylphosphine) dichloride, 3.05 g (0.016 mol) of copper(I) iodide and 8.4 g (0.032 mol) of triphenylphosphine have been added, the reaction mixture is refluxed for 4 hours. It is subsequently filtered, the filtrate is concentrated under a water-pump vacuum, and the residue is distilled under an oil-pump vacuum. 137 g (86% of theory) of 3-amino-3,3-dimethyl-1-(3,4-difluoro-phenyl)-1-propine of boiling point 75° C. at 1.5 mbar are obtained.

reactant | 3,4-difluoro-bromobenzene | 0.8 mol, 155 g | FC=1C=C(C=CC1F)Br | C6H3BrF2
reactant | 3-amino-3, 3-dimethyl-1-propine | 0.9 mol, 75 g | NC(C#C)(C)C | C5H9N
catalyst | palladium(II) bis(triphenylphosphine) dichloride | 0.004 mol, 2.81 g | [Pd+2].[Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 0.016 mol, 3.05 g | [Cu]I
catalyst | triphenylphosphine | 0.032 mol, 8.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 900 ml | C(C)N(CC)CC | C6H15N
product | 3-amino-3,3-dimethyl-1-(3,4-difluoro-phenyl)-1-propine | 137 g, 86% | NC(C#CC1=CC(=C(C=C1)F)F)(C)C | C11H11F2N
